US04623662
A solution of 1.73 g of 1-benzyl-1-(n-butyl)-3-(2-methoxy-3-chlorophenyl)urea and 1.0 ml of boron tribromide in 40 ml of methylene chloride was stirred at ambient temperature for 3 days and diluted with water. The organic layer was separated, dried, and evaporated. The residue was crystallized from hexane to yield 1-benzyl-1-(n-butyl)-3-(2-hydroxy-3-chlorophenyl)urea, m.p. 59°-62° C.

reactant | 1-benzyl-1-(n-butyl)-3-(2-methoxy-3-chlorophenyl)urea | 1.73 g | C(C1=CC=CC=C1)N(C(=O)NC1=C(C(=CC=C1)Cl)OC)CCCC | C19H23ClN2O2
reactant | boron tribromide | 1.0 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-benzyl-1-(n-butyl)-3-(2-hydroxy-3-chlorophenyl)urea | C(C1=CC=CC=C1)N(C(=O)NC1=C(C(=CC=C1)Cl)O)CCCC | C18H21ClN2O2
